US08912186B2
To a solution of commercial 4-bromobenzaldehyde (23.4 g) in ethyl acetoacetate (32.9 g) piperidine (3 ml) was added with stirring at rt. The yellowish solution slowly evolves strong heat. Ethanol (40 ml) was added to induce crystallisation and the mixture was kept at rt for 2 h. The precipitate was collected by suction filtration, washed with ethanol, and dried in vacuo to give 29.5 g of a faint yellowish solid (the bis-adduct of acetoacetate to the benzaldehyde). The powdered solid was added in portions to 50% NaOH (500 g) with stirring. The resulting yellow slurry was stirred at reflux for 2 h. After cooling in an ice bath the mixture was acidified by portionwise addition of conc. HCl (450 ml) to give a white, partly resinous precipitate. The solid was collected by suction filtration and washed with water. After drying in vacuo 3-(4-bromophenyl)glutaric acid (16.7 g) was obtained. The suspension of finely divided 3-(4-bromophenyl)-glutaric acid in acetyl chloride (20 ml) was heated to reflux with stirring for 1 h. After cooling to rt precipitation of the product is completed by addition of petrol ether (100 ml). The precipitate is isolated by suction filtration, washed with acetyl chloride (2×6 ml) and petrol ether, and dried in vacuo to give 3-(4-bromophenyl)-glutaric anhydride (12.3 g) as colourless crystals.

reactant | NaOH | 500 g | [OH-].[Na+]
reactant | HCl | 450 ml | Cl | ClH
reactant | 3-(4-bromophenyl)-glutaric acid | BrC1=CC=C(C=C1)C(CC(=O)O)CC(=O)O | C11H11BrO4
solvent | acetyl chloride | 20 ml | C(C)(=O)Cl | C2H3ClO
product | 3-(4-bromophenyl)-glutaric anhydride | 12.3 g | BrC1=CC=C(C=C1)C1CC(=O)OC(C1)=O | C11H9BrO3
